* C:\eee1\Asynth\Anasynser\Pure_PWL_input.asc
V1 Vin1 0 PULSE(0 5 1 0 0 1)
R1 V261 P001 6.10k
M1 N001 Vin1 V261 V261 Si1555DL_N
V2 N001 0 5
R2 F261 0 6.10k
C2 F261 0 0.1µ
C1 P001 F261 0.1µ
V3 Vin2 0 PULSE(0 5 2 0 0 1)
R3 V294 P002 5.41k
M2 N001 Vin2 V294 V294 Si1555DL_N
R4 F294 0 5.41k
C3 F294 0 0.1µ
C4 P002 F294 0.1µ
V4 Vin3 0 PULSE(0 5 3 0 0 1)
R5 V330 P003 4.82k
M3 N001 Vin3 V330 V330 Si1555DL_N
R6 F330 0 4.82k
C5 F330 0 0.1µ
C6 P003 F330 0.1µ
V5 Vin4 0 PULSE(0 5 4 0 0 1)
R7 V349 P004 4.56k
M4 N001 Vin4 V349 V349 Si1555DL_N
R8 F349 0 4.56k
C7 F349 0 0.1µ
C8 P004 F349 0.1µ
V6 Vin5 0 PULSE(0 5 5 0 0 1)
R9 V392 P005 4.06k
M5 N001 Vin5 V392 V392 Si1555DL_N
R10 F392 0 4.06k
C9 F392 0 0.1µ
C10 P005 F392 0.1µ
V7 Vin6 0 PULSE(0 5 6 0 0 1)
R11 V440 P006 3.62k
M6 N001 Vin6 V440 V440 Si1555DL_N
R12 F440 0 3.62k
C11 F440 0 0.1µ
C12 P006 F440 0.1µ
V8 Vin7 0 PULSE(0 5 7 0 0 1)
R13 V494 P007 3.22k
M7 N001 Vin7 V494 V494 Si1555DL_N
R14 F494 0 3.22k
C13 F494 0 0.1µ
C14 P007 F494 0.1µ
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\68791\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 10s
.backanno
.end
